US06911468B2
(4) 1-(4-Bromophenethyl)-N-decyl-5-(4-methoxyphenyl)-2-methyl-1H-pyrrole-3-carboxamide
To a solution of 1-(4-bromophenethyl)-5-(4-methoxyphenyl)-2-methyl-1H-pyrrole-3-carboxylic acid (2.00 g, 4.83 mmol) in DMF (10 ml) were added n-decylamine (838 mg, 5.33 mmol), diethyl cyanophosphate (946 mg, 5.80 mmol) and triethylamine (0.673 ml, 4.83 mmol), and the mixture was stirred for 1 hour at room temperature. To the reaction solution were added n-decylamine (838 mg, 5.33 mmol), diethyl cyanophosphate (946 mg, 5.80 mmol) and triethylamine (0.673 ml, 4.83 mmol) and the mixture was stirred room temperature for 2 hours. The mixture was poured into water and extracted with ethyl acetate. The extract was washed successively with 1N hydrochloric acid, water and saturated aqueous sodium bicarbonate and dried over magnesium sulfate anhydride, and solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the object compound as a solid. 2.16 g (80.9%)

reactant | 1-(4-bromophenethyl)-5-(4-methoxyphenyl)-2-methyl-1H-pyrrole-3-carboxylic acid | 4.83 mmol, 2.00 g | BrC1=CC=C(CCN2C(=C(C=C2C2=CC=C(C=C2)OC)C(=O)O)C)C=C1 | C21H20BrNO3
reactant | n-decylamine | 5.33 mmol, 838 mg | C(CCCCCCCCC)N | C10H23N
reactant | diethyl cyanophosphate | 5.80 mmol, 946 mg | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 4.83 mmol, 0.673 ml | C(C)N(CC)CC | C6H15N
reactant | n-decylamine | 5.33 mmol, 838 mg | C(CCCCCCCCC)N | C10H23N
reactant | diethyl cyanophosphate | 5.80 mmol, 946 mg | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 4.83 mmol, 0.673 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(4-Bromophenethyl)-N-decyl-5-(4-methoxyphenyl)-2-methyl-1H-pyrrole-3-carboxamide | BrC1=CC=C(CCN2C(=C(C=C2C2=CC=C(C=C2)OC)C(=O)NCCCCCCCCCC)C)C=C1 | C31H41BrN2O2
